US08703934B2
2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}thio)-4-(4-hydroxypiperidin-1-yl)pyridine-3,5-dicarbonitrile
100 mg (0.23 mmol) of 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}thio)-4-(methyl-thio)pyridine-3,5-dicarbonitrile and 1000 mg (9.89 mmol) of 4-hydroxypiperidine are combined in 2 ml of acetone and stirred under reflux for 8 h. The mixture is then added to a mixture of semiconcentrated aqueous ammonium chloride solution and ethyl acetate. After vigorous mixing, the organic phase is separated off, washed with saturated sodium chloride solution, dried over magnesium sulfate and filtered off using a glass frit, and the solvent is removed on a rotary evaporator. The residue is purified initially by column chromatography on silica gel 60 (mobile phase: gradient toluene/ethyl acetate 3:1→1:1) and then by preparative HPLC (column: YMC GEL ODS-AQ S-5/15 μm; mobile phase gradient: acetonitrile/water 10:90→95:5). The title compound in obtained as a white powder.

reactant | 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}thio)-4-(methyl-thio)pyridine-3,5-dicarbonitrile | 0.23 mmol, 100 mg | NC1=NC(=C(C(=C1C#N)SC)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C18H12ClN5S3
reactant | 4-hydroxypiperidine | 9.89 mmol, 1000 mg | OC1CCNCC1 | C5H11NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}thio)-4-(4-hydroxypiperidin-1-yl)pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)N1CCC(CC1)O)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C22H19ClN6OS2
